US04587049
Preparation of [1-(2,4-dimethoxy-benzyl)-4-oxo-2-azetidinyl]-acetic acid
13.2 g (50 millimoles) of 1-(2,4-dimethoxy-benzyl)-4-oxo-2-azetidine-carboxylic acid prepared according to the preceding paragraph are dissolved in 150 ml of anhydrous tetrahydrofurane and to the solution first 7.3 ml (52.5 millimole) of triethylamine and thereafter under stirring and ice-cooling 5.0 ml (52.5 millimoles) of ethylchloroformiate are added. The mixture is cooled to -15° C., stirred at this temperature for 20 minutes and the precipitated triethylamine salt is filtered off under argon. To the filtrate a solution of 22.5 g (150 millimole) diazomethane and 230 ml of cold diethyl ether is added. The solution is stirred, allowed to warm to ambient temperature and after 2 hours the mixture is evaporated to dryness. The residue is dissolved in 20 ml of benzene and subjected to column chromatography (adsorbent: 150 g of Kieselgel G, diameter 0.063-0.2000 mm; eluant: benzene-acetone 7:2). On rubbing with ether a crystalline product is obtained. Yield: 10.5 g (73%) of 4-diazoacetyl-1-(2,4-dimethoxy-benzyl)-2-azetidinone, m.p.: 90°-91° C.

reactant | 1-(2,4-dimethoxy-benzyl)-4-oxo-2-azetidine-carboxylic acid | 50 millimoles, 13.2 g | COC1=C(CN2C(CC2=O)C(=O)O)C=CC(=C1)OC | C13H15NO5
reactant | triethylamine | 52.5 millimole, 7.3 ml | C(C)N(CC)CC | C6H15N
reactant | diazomethane | 150 millimole, 22.5 g | [N+](=[N-])=C | CH2N2
reactant | 4-diazoacetyl-1-(2,4-dimethoxy-benzyl)-2-azetidinone | Yield: 10.5 g | [N+](=[N-])=CC(=O)C1CC(N1CC1=C(C=C(C=C1)OC)OC)=O | C14H15N3O4
reactant | tetrahydrofurane | 150 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 230 ml | C(C)OCC | C4H10O
product | [1-(2,4-dimethoxy-benzyl)-4-oxo-2-azetidinyl]-acetic acid | COC1=C(CN2C(CC2=O)CC(=O)O)C=CC(=C1)OC | C14H17NO5
